US07834197B2
Preparation of N-methoxymethyl-N-isopropylpyrrolidinium chloride
A 40.00 g quantity of N-isopropylpyrrolidine was dissolved in 361 g of dehydrated 2-butanone (reagent, product of Wako Pure Chemical Ind. Ltd.), followed by replacement with nitrogen. To the solution was added dropwise 28.76 g of chloromethyl methyl ether (reagent, product of Tokyo Kasei Co., Ltd. as purified by distillation) at 5° C. over a period of 0.5 hour. The mixture was thereafter heated to a gradually elevated temperature and stirred at room temperature for 10 hours, whereby the reaction was terminated. The reaction mixture was cooled to 5° C., and the resulting solids were filtered off in nitrogen. The filter cake was washed with 200 ml of 2-butanone and thereafter dried in a vacuum, giving 66.40 g of the desired product.

reactant | N-isopropylpyrrolidine | C(C)(C)N1CCCC1 | C7H15N
reactant | chloromethyl methyl ether | 28.76 g | COCCl | C2H5ClO
solvent | 2-butanone | 361 g | CC(CC)=O | C4H8O
product | N-methoxymethyl-N-isopropylpyrrolidinium chloride | 66.40 g | [Cl-].COC[N+]1(CCCC1)C(C)C | InChI=1S/C9H20NO.ClH/c1-9(2)10(8-11-3)6-4-5-7-10;/h9H,4-8H2,1-3H3;1H/q+1;/p-1
